US05972965
A solution of 1-(3-hydroxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (0.13 g), ethyl bromoacetate (0.21 g), potassium carbonate (99 mg) and potassium iodide (catalytic amount) in acetonitrile (10 ml) was refluxed for 9 hours. The reaction mixture was partitioned between ethyl acetate and brine. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-(3-ethoxycarbonylmethoxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (0.16 g). MS (m/z): 497 (M+ +1) NMR (CDCl3, δ): 1.28 (3H, t, J=7.1 Hz), 2.20-2.96 (4H, m), 4.23 (2H, q, J=7.1 Hz), 4.38 (1H, d, J=14.7 Hz), 4.43 (2H, s), 4.70 (1H, d, J=14.7 Hz), 4.76 (1H, m), 6.70-6.87 (3H, m), 7.15 (1H, t, J=7.8 Hz), 7.33-7.56 (6H, m), 7.57-7.61 (4H, m)

reactant | 1-(3-hydroxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 0.13 g | OC=1C=C(CN2C(CCC2C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C26H22N2O3
reactant | ethyl bromoacetate | 0.21 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 99 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(3-ethoxycarbonylmethoxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 0.16 g | C(C)OC(=O)COC=1C=C(CN2C(CCC2C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C30H28N2O5
